US04085272
Preparation of 1-Propargyl-1-trimethylsilyloxycyclohexane
To a stirred solution of 55.4 g of 1-(2-propyn-1-yl)cyclohexanol [H. Gutmann, et. al., Helv. Chim. Acta, 42, 719 (1959)] and 79 g of imidazole in 240 ml of DMF at 10° C initially is added 56 ml of chlorodimethylsilane during 10 minutes. The cloudy yellow solution is stirred at room temperature for 26 hours. The resulting mixture is partitioned between 1000 ml of hexane and 400 ml of water at 0°-5° C. The hexane phase is washed successively with 6 × 200 ml of cold water and 200 ml of brine. The extract is dried over magnesium sulfate, filtered, and evaporated to give 85 g of colorless liquid, i.r. (film):1240 and 830 cm-1 (trimethylsilyloxy group).

reactant | 1-(2-propyn-1-yl)cyclohexanol | 55.4 g | C(C#C)C1(CCCCC1)O | C9H14O
reactant | imidazole | 79 g | N1C=NC=C1 | C3H4N2
reactant | chlorodimethylsilane | 56 ml | Cl[SiH](C)C | C2H7ClSi
solvent | DMF | 240 ml | CN(C)C=O | C3H7NO
product | 1-Propargyl-1-trimethylsilyloxycyclohexane | 85 g | C(C#C)C1(CCCCC1)O[Si](C)(C)C | C12H22OSi
